US08937078B2
Step B: Preparation of 1-(5,7-difluoro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
Titanium (IV) chloride (0.39 mL, 3.5 mmol) was carefully added to a solution of 1-[(3,5-difluoro-phenylimino)-ethoxycarbonylamino-methyl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.321 g, 0.876 mmol) and DCE (2.7 mL), and the resulting solution was heated to 110° C. for 1.5 h. The reaction mixture was cooled to room temperature and water (50 mL), methanol (1 mL), and DCM (40 mL) were added. The biphasic mixture was stirred for 30 min, and the layers were separated. The aqueous layer was further extracted with DCM (2×30 mL). The combined organic layers were washed with brine (40 mL), dried (MgSO4), and concentrated. The residue was triturated from EtOH to yield the titled compound (0.172 g, 60% yield). MS (ESI/Cl): mass calcd. for C14H10F2N4O3, 320.1; m/z found, 321.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 13.09 (s, 1H), 8.99 (d, J=0.5 Hz, 1H), 8.35 (s, 1H), 7.42-7.32 (m, 2H), 4.30 (q, J=7.1 Hz, 2H), 1.32 (t, J=7.1 Hz, 3H).

reactant | 1-[(3,5-difluoro-phenylimino)-ethoxycarbonylamino-methyl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.876 mmol, 0.321 g | C(C)OC(=O)C=1C=NN(C1)C(NC(=O)OCC)=NC1=CC(=CC(=C1)F)F | C16H16F2N4O4
reactant | DCE | 2.7 mL | ClCCCl | C2H4Cl2
reactant | water | 50 mL | O | H2O
reactant | methanol | 1 mL | CO | CH4O
catalyst | Titanium (IV) chloride | 3.5 mmol, 0.39 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-(5,7-difluoro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.172 g, 60% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC(=CC(=C2C(N1)=O)F)F | C14H10F2N4O3
